US05939413
To an ice-cooled solution of (5R)-5-(1H-indol-3-ylmethyl)-1-[3-(ethoxycarbonyl)propyl]piperazin-2-one (0.56 g) and pyridine (0.26 ml) in dichloromethane (10 ml) was added a solution of 3,5-bis(trifluoromethyl)benzoyl chloride (0.45 g) in dichloromethane (1 ml). The solution was stirred for 40 minutes at the same temperature. After concentration, the residue was extracted with ethyl acetate. The organic layer was washed successively with aqueous sodium bicarbonate solution, water, 0.5N hydrochloric acid and brine, and dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (20 g) eluting with a mixture of dichloromethane-methanol (from 0% to 5% gradient solution) to give (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-[3-(ethoxycarbonyl)propyl]-5-(1H-indol-3-ylmethyl)piperazin-2-one (0.34 g) as an amorphous solid.

reactant | (5R)-5-(1H-indol-3-ylmethyl)-1-[3-(ethoxycarbonyl)propyl]piperazin-2-one | 0.56 g | N1C=C(C2=CC=CC=C12)C[C@H]1NCC(N(C1)CCCC(=O)OCC)=O | C19H25N3O3
reactant | pyridine | 0.26 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 0.45 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-[3-(ethoxycarbonyl)propyl]-5-(1H-indol-3-ylmethyl)piperazin-2-one | 0.34 g | FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CCCC(=O)OCC)=O)C=C(C1)C(F)(F)F)(F)F | C28H27F6N3O4
